US04697035
(a) Preparation of α-isopropylveratryl cyanide
457.4 g (2 mol) of α-isopropyl-veratryl chloride, 108 g (2.2 mol) of sodium cyanide, 10 mol-% of phase transfer catalyst, 100 ml of water and 800 ml of triethylamine are stirred together for 5 hours at 60° C. After the addition of 60 ml of 30% sodium hydroxide solution and 300 ml of water, the organic phase is separated off. After removal of the triethylamine by distillation, the residue is distilled in a fine vacuum. The distillate obtained is recrystallised from methanol/water.

reactant | α-isopropyl-veratryl chloride | 2 mol, 457.4 g | C(C)(C)C(C1=CC(OC)=C(OC)C=C1)Cl | C12H17ClO2
reactant | sodium cyanide | 2.2 mol, 108 g | [C-]#N.[Na+]
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | triethylamine | 800 ml | C(C)N(CC)CC | C6H15N
solvent | water | 100 ml | O | H2O
product | α-isopropylveratryl cyanide | C(C)(C)C(C1=CC(OC)=C(OC)C=C1)C#N | C13H17NO2
